Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][N:4]([c:5]2[n:6][cH:7][cH:8][cH:9][c:10]2[Cl:11])[CH2:12][CH2:13]1>>[NH:1]1[CH2:2][CH2:3][N:4]([c:5]2[n:6][cH:7][cH:8][cH:9][c:10]2[Cl:11])[CH2:12][CH2:13]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][N:4]([c:5]2[n:6][cH:7][cH:8][cH:9][c:10]2[Cl:11])[CH2:12][CH2:13]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][N:4]([c:5]2[n:6][cH:7][cH:8][cH:9][c:10]2[Cl:11])[CH2:12][CH2:13]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[n:4][cH:5][c:6]([Cl:7])[cH:8][c:9]1[NH:10][S:11](=[O:12])(=[O:13])[c:14]1[cH:15][cH:16][c:17]([Cl:18])[c:19]([C:20]([F:21])([F:22])[F:23])[cH:24]1.[CH3:25][NH:26][O:27][CH3:28]>>[C:1](=[O:2])([c:3]1[n:4][cH:5][c:6]([Cl:7])[cH:8][c:9]1[NH:10][S:11](=[O:12])(=[O:13])[c:14]1[cH:15][cH:16][c:17]([Cl:18])[c:19]([C:20]([F:21])([F:22])[F:23])[cH:24]1)[N:26]([CH3:25])[O:27][CH3:28],[OH:101][C:1](=[O:2])[c:3]1[n:4][cH:5][c:6]([Cl:7])[cH:8][c:9]1[NH:10][S:11](=[O:12])(=[O:13])[c:14]1[cH:15][cH:16][c:17]([Cl:18])[c:19]([C:20]([F:21])([F:22])[F:23])[cH:24]1.[CH3:25][NH:26][O:27][CH3:28].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[n:4][cH:5][c:6]([Cl:7])[cH:8][c:9]1[NH:10][S:11](=[O:12])(=[O:13])[c:14]1[cH:15][cH:16][c:17]([Cl:18])[c:19]([C:20]([F:21])([F:22])[F:23])[cH:24]1)[N:26]([CH3:25])[O:27][CH3:28],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (26, 1), ([1, 2], 2), (303, 26.1), ([26.1, 26], 26), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1.[O:8]=[C:9]([OH:10])[C@@H:11]([OH:12])[CH2:13][CH:14]1[CH2:15][CH2:16][CH2:17]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[O:10][C:9](=[O:8])[C@@H:11]([OH:12])[CH2:13][CH:14]1[CH2:15][CH2:16][CH2:17]1,[O:8]=[C:9]([OH:10])[C@@H:11]([OH:12])[CH2:13][CH:14]1[CH2:15][CH2:16][CH2:17]1.[Br:101][CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1.[H-:301].[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[O:10][C:9](=[O:8])[C@@H:11]([OH:12])[CH2:13][CH:14]1[CH2:15][CH2:16][CH2:17]1,SN2_alcohol(thiol),"[(301, 10.1), ([10.1, 10], 10), (10, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[c:2]([N+:3](=[O:4])[O-:5])[cH:6][c:7]([C:8]([CH3:9])=[O:10])[s:11]1.[CH3:12][n:13]1[cH:14][cH:15][n:16][c:17]1[SH:18]>>[c:1]1([S:18][c:17]2[n:13]([CH3:12])[cH:14][cH:15][n:16]2)[c:2]([N+:3](=[O:4])[O-:5])[cH:6][c:7]([C:8]([CH3:9])=[O:10])[s:11]1,[Cl:101][c:1]1[c:2]([N+:3](=[O:4])[OH:5])[cH:6][c:7]([C:8]([CH3:9])=[O:10])[s:11]1.[CH3:12][n:13]1[cH:14][cH:15][n:16][c:17]1[SH:18].[H-:301].[Na+]>>[c:1]1([S:18][c:17]2[n:13]([CH3:12])[cH:14][cH:15][n:16]2)[c:2]([N+:3](=[O:4])[OH:5])[cH:6][c:7]([C:8]([CH3:9])=[O:10])[s:11]1,SNAr_alco(thi)ol(ortho),"[(301, 18.1), ([18.1, 18], 18), (18, 1), ([1, 2], [2, 3]), ([3, 4], 4), (4, [4, 3]), ([3, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][CH2:2][CH2:3][C:4]([CH2:5][C:6]([O:7][CH3:8])=[O:9])([CH3:10])[c:11]1[cH:16][cH:15][cH:14][cH:13][cH:12]1.[O:17]=[C:18]([NH:19][CH:20]1[CH2:21][CH2:22][NH:23][CH2:24][CH2:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][c:31]1-[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1>>[CH2:1]([CH2:2][CH2:3][C:4]([CH2:5][C:6]([O:7][CH3:8])=[O:9])([CH3:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[N:23]1[CH2:22][CH2:21][CH:20]([NH:19][C:18](=[O:17])[c:26]2[cH:27][cH:28][cH:29][cH:30][c:31]2-[c:32]2[cH:33][cH:34][cH:35][cH:36][cH:37]2)[CH2:25][CH2:24]1,[O:17]=[C:18]([NH:19][CH:20]1[CH2:21][CH2:22][NH:23][CH2:24][CH2:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][c:31]1-[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1.[Br:101][CH2:1][CH2:2][CH2:3][C:4]([CH2:5][C:6]([O:7][CH3:8])=[O:9])([CH3:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH2:1]([CH2:2][CH2:3][C:4]([CH2:5][C:6]([O:7][CH3:8])=[O:9])([CH3:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[N:23]1[CH2:22][CH2:21][CH:20]([NH:19][C:18](=[O:17])[c:26]2[cH:27][cH:28][cH:29][cH:30][c:31]2-[c:32]2[cH:33][cH:34][cH:35][cH:36][cH:37]2)[CH2:25][CH2:24]1,SN2,"[(23, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
